US07855215B2
5-(6-Isopropylamino-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluormethyl-phenyl)-amide
A solution of 261 mg (0.60 mMol) 5-(6-chloro-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide (WO 03/099771; ex. 163) in 15 ml isopropylamin is stirred for 18 h at rt and then concentrated in vacuo. The residue is dissolved in EtOAc and water and the aqueous layer extracted twice with EtOAc. -The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Column chromatography (SiO2; EtOAc/hexane 1:1) gives the title compound: m.p.: 189° C.; MS: [M+1]+=458; TLC(EtOAc): Rf=0.45.

reactant | 5-(6-chloro-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.60 mMol, 261 mg | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC=NC(=C1)Cl)(F)F | C20H14ClF3N4O2
solvent | isopropylamin | 15 ml | C(C)(C)N | C3H9N
product | 5-(6-Isopropylamino-pyrimidin-4-yloxy)-2,3-dihydro-indole-1-carboxylic acid (3-trifluormethyl-phenyl)-amide | FC(C=1C=C(C=CC1)NC(=O)N1CCC2=CC(=CC=C12)OC1=NC=NC(=C1)NC(C)C)(F)F | C23H22F3N5O2
